US06559146B1
A mixture solution of 2.2 g of 2-[4-(tert-butoxycarbonylamino)-2,3,5,6-tetramethylanilino]acetic acid, 1.67 ml of 1-benzyl-4-aminopiperidine, 10.47 g of 25% propanephosphonic acid anhydride and 4.76 ml of triethylamine in 40 ml of methylene chloride was stirred over night at room temperature. Then, 20 ml of saturated sodium hydrogen carbonate solution was added to the reaction mixture, and the mixture was extracted with methylene chloride. The extract was washed with brine, dried and concentrated under reduced pressure to give a residue. The obtained residue was purified by silica gel column chromatography (methylene chloride:methanol=10:1) to give 2.48 g (73%) of 2-[4-(tert-butoxycarbonylamino)-2,3,5,6-tetramethylanilino]-N-(1-benzyl-4-piperidinyl)acetamide. Then, a mixture of 438 mg of the compound obtained and 40 mg of 20%-palladium hydroxide on carbon in 4 ml of methanol was stirred for 6 hours under 5 atm of hydrogen. Then, the catalyst was filltered off a Celite (trade name) pud and the filtrate was concentrated under reduced pressure to give a residue. The obtained residue was purified by amine-coated silica gel (Fuji Silysia Chemical Ltd.; NH-DM1020) column chromatography (methylene chloride:methanol=10:1) to give 293 mg (81%) of the above-mentioned compound (21).

reactant | 2-[4-(tert-butoxycarbonylamino)-2,3,5,6-tetramethylanilino]acetic acid | 2.2 g | C(C)(C)(C)OC(=O)NC1=C(C(=C(NCC(=O)O)C(=C1C)C)C)C | C17H26N2O4
reactant | 1-benzyl-4-aminopiperidine | 1.67 ml | C(C1=CC=CC=C1)N1CCC(CC1)N | C12H18N2
reactant | triethylamine | 4.76 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | 20 ml | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 2-[4-(tert-butoxycarbonylamino)-2,3,5,6-tetramethylanilino]-N-(1-benzyl-4-piperidinyl)acetamide | 2.48 g, 73% | C(C)(C)(C)OC(=O)NC1=C(C(=C(NCC(=O)NC2CCN(CC2)CC2=CC=CC=C2)C(=C1C)C)C)C | C29H42N4O3
